US06090825
C. 4-[2-(2,4-Difluoro-phenyl)-1-methoxycarbonyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester
To a three neck 1 liter round bottom flash fitted with mechanical stirrer, nitrogen inlet and dropping funnel are added n-carbobenzyloxy-isonipecotic acid (22.64 g, 86.2 mmol). 550 mL of dry tetrahydrofuran, and N-methyl morpholine, (19 mL, 712.4 mmol). The mixture is cooled to negative 20° C. and then isobutyl chloroformate (11.2 mls, 86.2 mmol in 90 mL of dry tetrahydrofuran) is added dropwise while maintaining the internal temperature at negative 20° C. After 1 hour at negative 20° C., the 2-Amino-3-(2,4-difluoro-phenyl)-3-oxo-propionic acid methyl ester, hydrochloride (22.89 g, 86.2 mmol) is added, followed by N-methyl morpholine, 9.5 mL. The reaction is allowed to come to room temperature is stirred for an additional 16 hours. The reaction is concentrated to a thick slurry and then extracted with dichloromethane, 350 mL, and water, 300 mL. The organic layer is washed with additional water. The aqueous layers are combined and washed with dichloromethane. The organic layers are combined and washed with brine and then dried with magnesium sulfate, filtered, and concentrated to give an oil. The oil is purified by preparative high performance liquid chromatography to give upon concentration of the desired fractions to yield the title compound.

reactant | N-methyl morpholine | 712.4 mmol, 19 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 86.2 mmol, 11.2 mls | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-Amino-3-(2,4-difluoro-phenyl)-3-oxo-propionic acid methyl ester, hydrochloride | 86.2 mmol, 22.89 g | Cl.COC(C(C(=O)C1=C(C=C(C=C1)F)F)N)=O
solvent | tetrahydrofuran | 550 mL | O1CCCC1 | C4H8O
product | 4-[2-(2,4-Difluoro-phenyl)-1-methoxycarbonyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC(C(=O)C1=C(C=C(C=C1)F)F)C(=O)OC)=O | C24H24F2N2O6
